US05965559
Using an analogous procedure to that described in Example 2, 2-naphthylsulphonyl chloride was reacted with 3-ethoxycarbonyl-1-[1-(4-pyridyl)piperidin-4-ylcarbonyl]piperazine to give 2-ethoxycarbonyl-1-(2-naphthylsulphonyl)-4-[1-(4-pyridyl)piperidin-4-ylcarbonyl]piperazine in 31% yield;

reactant | 2-naphthylsulphonyl chloride | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | 3-ethoxycarbonyl-1-[1-(4-pyridyl)piperidin-4-ylcarbonyl]piperazine | C(C)OC(=O)C1CN(CCN1)C(=O)C1CCN(CC1)C1=CC=NC=C1 | C18H26N4O3
product | 2-ethoxycarbonyl-1-(2-naphthylsulphonyl)-4-[1-(4-pyridyl)piperidin-4-ylcarbonyl]piperazine | 31% yield | C(C)OC(=O)C1N(CCN(C1)C(=O)C1CCN(CC1)C1=CC=NC=C1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C28H32N4O5S
